US04360511
2.19 Grams of p-iodoaniline and 1.06 g of benzaldehyde were dissolved in 50 ml of glyme and the resulting solution heated to 60° for two hours. The temperature was maintained for an additional hour after the addition of 30 ml of a 1 M solution of borane in tetrahydrofuran. The excess boron hydride was then destroyed by the addition of about 10 ml of methanol. To this mixture was added 100 ml of a 0.3 M solution of sodium hydroxide and the resulting solution extracted with 100 ml of ether to yield N-benzyl-p-iodoaniline, Rf =0.70.

reactant | p-iodoaniline | IC1=CC=C(N)C=C1 | C6H6IN
reactant | benzaldehyde | 1.06 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | borane | B | BH3
solvent | glyme | 50 ml | C(OC)COC | C4H10O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-benzyl-p-iodoaniline | C(C1=CC=CC=C1)NC1=CC=C(C=C1)I | C13H12IN
